US05140104
Tyrosine N'-Boc-hydrazide (12)
A solution of CBZ-L-tyrosine (3.00 gm, 9.11 mmoles), N-methylmorpholine (0.92 gm, 1.00 ml, 9.11 mmoles) in 100 ml dry tetrahydrofuran (THF) was cooled to 0° C. under nitrogen. 2,2,2-Trichloro-1,1-dimethylethylchloroformate (2.18 gm, 9.11 mmoles) was added to the cold solution. After 5 minutes stirring, a solution of t-butyl carbazate (1.20 gm, 9.11 mmoles) in 20 ml dry THF was cooled to 0° C. and added to the reaction mixture. The mixture was allowed to warm slowly to room temperature and was stirred for about 18 hours. The solvent was removed by rotary evaporation and the residue was partitioned between chloroform and water and the layers separated. The organic layer was washed with saturated NaCl dried over Na2SO4, filtered, and solvent evaporated to yield the crude protected product. The CBZ-protected product, CBZ-tyrosine N'-Boc-hydrazide, was purified on silica gel via flash chromatography using a mixture of petroleum ether and ethyl acetate (1:1).

reactant | CBZ-L-tyrosine | 9.11 mmoles, 3.00 gm | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C17H17NO5
reactant | N-methylmorpholine | 9.11 mmoles, 1.00 ml, 0.92 gm | CN1CCOCC1 | C5H11NO
reactant | t-butyl carbazate | 9.11 mmoles, 1.20 gm | C(NN)(=O)OC(C)(C)C | C5H12N2O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
product | Tyrosine N'-Boc-hydrazide | C(=O)(OC(C)(C)C)NNC([C@@H](N)CC1=CC=C(C=C1)O)=O | C14H21N3O4
